US06277872B1
b) Preparation of 5-{2-[2-(carboxy)ethyl]oxy-phenyl}-3-phenyl-1,2,4-oxadiazole
2.5 g of 5-{2-[2-(1,3-dioxan-2-yl)ethyl]oxy-phenyl}-3-phenyl-1,2,4-oxadiazole are dissolved in 50 ml of acetone and at 0° C. a solution of chromium(VI)oxide in 30% sulphuric acid is added dropwise thereto. The mixture is then stirred for a further 20 hours at 20-23° C. and then 25 ml of isopropanol are added with cooling at 5° C. The mixture is added to a suspension of 100 ml of dichloromethane and 100 ml of water and the organic phase is separated off. The aqueous phase is extracted once more with dichloromethane and the combined organic solutions are again extracted with water. The extract is dried over sodium sulphate, evaporated down in vacuo and the residue is chromatographed on silica gel with dichloromethane/methanol (97:3). The product is recrystallised from ethyl acetate. Yield: 0.23 g (11% of theory), melting point 170-171° C.

reactant | 5-{2-[2-(1,3-dioxan-2-yl)ethyl]oxy-phenyl}-3-phenyl-1,2,4-oxadiazole | 2.5 g | O1C(OCCC1)CCOC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1 | C20H20N2O4
reactant | isopropanol | 25 ml | C(C)(C)O | C3H8O
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | water | 100 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | chromium(VI)oxide | [O-2].[Cr+6].[O-2].[O-2]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-{2-[2-(carboxy)ethyl]oxy-phenyl}-3-phenyl-1,2,4-oxadiazole | C(=O)(O)CCOC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1 | C17H14N2O4
